US05482521
Tolyltriazole-N-oleyl-1,3-diaminopropane
Approximately 66.6 grams (0.5 mole) tolyltriazole, 175 grams (0.5 mole) N-oleyl-1,3-diaminopropane (Armak Chemical Co.), 100 ml ethanol, and 100 ml toluene were charged to a 1 liter flask equipped with an agitator, Dean-Stark apparatus, and dropping funnel. This mixture was stirred to a homogeneous mixture. Glyoxal (36.3 grams, 0.25 mole, 40% in water) was added dropwise and then stirred at room temperature for 12 hours. Water was then azeotropically removed by heating to 150° C. The orange product (237 grams) was isolated by filtration and removal of solvent under reduced pressure.

reactant | tolyltriazole | 0.5 mole, 66.6 grams | C1(=C(C=CC=C1)C=1N=NNC1)C | C9H9N3
reactant | N-oleyl-1,3-diaminopropane | 0.5 mole, 175 grams | C(CCCCCCC\C=C/CCCCCCCC)NCCCN | C21H44N2
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | Glyoxal | 0.25 mole, 36.3 grams | C(=O)C=O | C2H2O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Tolyltriazole N-oleyl-1,3-diaminopropane | 237 grams | C1(=C(C=CC=C1)C=1N=NNC1)C.C(CCCCCCC\C=C/CCCCCCCC)NCCCN | InChI=1S/C21H44N2.C9H9N3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-23-21-18-19-22;1-7-4-2-3-5-8(7)9-6-10-12-11-9/h9-10,23H,2-8,11-22H2,1H3;2-6H,1H3,(H,10,11,12)/b10-9-;
